US04861764
Preparation of 2-n-pentyl-1,3 dioxolane (1)
30 g (0.29 mole) of hexanol, 31 g (0.5 mol) of ethylene glycol, 100 mg of p-toluenesulfonic acid (p-Ts) in 100 ml of benzene are placed in 250 ml round-bottomed flask equipped with a Dean-Stark trap, a condenser and a mechanical stirrer. The mixture is heated to reflux until no more water has separated from the benzene phase. The mixture is then cooled to room temperature, washed with 100 ml of 5% sodium bicarbonate, 100 ml of saturated NaCl solution, and finally water. The solution is dried over sodium sulfate. After removing the solvent, the oil is fractionated. A yield of 19.6 g of colorless oil (46%) is obtaind nD20 =1.4554.

reactant | hexanol | 0.29 mole, 30 g | C(CCCCC)O | C6H14O
reactant | ethylene glycol | 0.5 mol, 31 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-n-pentyl-1,3 dioxolane | C(CCCC)C1OCCO1 | C8H16O2
